2157-01-24 06:25:00 Physician Resident Progress Note
CCU Intern Progress Note:
   24 Hour Events:
   - hypotensive SBP=74 (MAP=43), responded well to NS 250cc bolus x2,
   hence likely [**1-24**] hypovolemia from overdiuresis
   - NPO after MN for AVR/CABG on Monday
   - was taking Prednisone 5mg at home --> will receive stress-dose
   steroids (hydrocortisone 100mg IV tomorrow in AM, x3 doses)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2157-1-23**] 09:00 AM
   Metronidazole - [**2157-1-23**] 09:15 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2157-1-24**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 73 (68 - 106) bpm
   BP: 113/55(68) {74/25(26) - 125/91(95)} mmHg
   RR: 23 (12 - 24) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.2 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  1,501 mL
                                                                     55 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    781 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    400 mL
   Urine:
                                                                  1,920 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -419 mL
                                                                   -345 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic- harsh,
   late peaking [**2-25**]
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   except for slight crackles in right base
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace; right BKA, left toes with black
   necrotic tissue-dry; left calf with atrophy and stasis changes
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person place and time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   405 K/uL
   10.4 g/dL
   128 mg/dL
   1.2 mg/dL
   32 mEq/L
   4.1 mEq/L
   22 mg/dL
   98 mEq/L
   135 mEq/L
   32.0 %
   9.6 K/uL
        [image002.jpg]
                             [**2157-1-23**]  03:40 AM
                             [**2157-1-24**]  04:24 AM
   WBC
   9.6
   9.6
   Hct
   30.0
   32.0
   Plt
   408
   405
   Cr
   1.7
   1.2
   Glucose
   191
   128
   Other labs: PT / PTT / INR:16.6/52.0/1.5, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Pt is a 66 y.o male with known severe PVD, DM, severe AS, CHF, LLE
   gangrene, transferred to CCU for monitored diuresis for acute on
   chronic systolic CHF.
   # Acute on chronic systolic CHF - Ischemic and also may be related to
   aortic stenosis. Appears now evoluemic, cr inc from 1.1 to 1.7 today.
   - hold lasix gtt for now
   - reasses fluid status in evening IV bolus lasix prn for goal i/o even
   - Monitor for hypotension
   - Holding spironolactone and digoxin
   # Aortic stenosis -
   - Plan for AVR Monday with CABD
   - Goal INR 1.3 for OR, give Vitamin K as needed
   - Diuresis to optimize for OR.
   - Carotid ultrasounds and dental x-rays complete
   #. CAD-Cath [**2157-1-20**] with multivessel CAD. PT needs AVR & CABG. C-[**Doctor First Name **]
   planning for OR tomorrow. Had trop leak [**1-24**] CHF.  Has ICD in place.
   -ASA/BB/Statin
   -avoid nitrates for CP given AS.
   -f/u Csurg recs, d/w them whether ICD needs to be deactivated prior to
   surgery and who will do this (? EP)
   #. Rhythm - Pt with AFib. HR controlled on metoprolol.
   -holding digoxin as rate is controlled with metoprolol
   -on hep gtt; holding warfarin pending OR.
   #Diabetes. On Insulin as outpt. A1C is 6.0.
   -[**Last Name (un) 294**] consult appreciated.
   -DM diet
   -ISS
   # Severe PVD/Dry Gangrene - Plan for revascularization after cardiac
   issues addressed.
   - ID consult appreciated.
   - vancomycin 1gm Q12hr, cipro PO, flagyl PO, now day 13, d/c abx today,
   as would complete 2-week course.
   - wound care per vascular.
   # Acute Renal failure - Cr. improving increased with dieuresis, at
   baseline 1.2. Inital injury [**1-24**] poor forward flow and resolved with
   diuresis. Now worsened with likely over diuresis.
   - holding lasix for now given Cr bump.
   # Anemia - Hct at baseline (low 30s)
   - cont to monitor.
   # Depression - continue Celexa.
   # PMR - continue hydrocortisone, ? stress does steroids peri-op
   # FEN: Follow and replete electrolytes. Cardiac diet.  NPO after MN
   # Access: PIV
   # PPx: PO diet. heparin gtt. bowel regimen
   # Code: confirmed full
   # Dispo: To OR in am
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2157-1-23**] 12:46 AM
   20 Gauge - [**2157-1-23**] 12:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: